US07244726B2
6-{4-[2-(2-Methylquinolin-5-yloxy)ethyl]piperazin-1-ylmethyl}quinoxaline (E10)
A mixture of 2-methyl-5-(2-piperazin-1-ylethoxy)quinoline (0.054 g, 0.2 mmol) and quinoxaline-6-carboxyaldehyde (0.032 g, 0.2 mmol) in 1,2-dichloroethane (5 mL) was treated with sodium triacetoxyborohydride (64 mg, 0.2 mmol) and stirred at 20° C. under an atmosphere of argon for 24 h. The mixture was then treated with saturated aqueous NaHCO3 (20 mL) and the organic layer separated and purified directly by chromatography on silica (ethyl acetate to 10% methanol/ethyl acetate), to afford the title compound (0.05 g, 61%) as a solid.

reactant | 2-methyl-5-(2-piperazin-1-ylethoxy)quinoline | 0.2 mmol, 0.054 g | CC1=NC2=CC=CC(=C2C=C1)OCCN1CCNCC1 | C16H21N3O
reactant | sodium triacetoxyborohydride | 0.2 mmol, 64 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
reactant | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 6-{4-[2-(2-Methylquinolin-5-yloxy)ethyl]piperazin-1-ylmethyl}quinoxaline | 0.05 g, 61% | CC1=NC2=CC=CC(=C2C=C1)OCCN1CCN(CC1)CC=1C=C2N=CC=NC2=CC1 | C25H27N5O
